US05859030
a) 2-Hydroxymethyl-4-(4-mercaptobutylthio)-3-methylpyridine
4.2 g (145 mmol) of sodium hydride (80% in paraffin) are initially introduced in 100 ml of DMF with ice-cooling. 35.5 g (290 mmol) of 1,4-butanedithiol are slowly added dropwise. After the evolution of gas has ended, 15.3 g (97 mmol) of 4-chloro-2-hydroxymethyl-3-methylpyridine in 20 ml of DMF are added drop-wise. After about 30 minutes, the mixture is allowed to come to RT and is stirred at this temperature for 12 h. It is diluted with 800 ml of ice-water and neutralized with acetic acid. The mixture is extracted 3 times with dichloromethane. The combined organic phases are washed 4 times with water, dried over magnesium sulfate, filtered and concentrated. The crude product is chromatographed on silica gel using ethyl acetate/conc. ammonia=99/1. The title compound is obtained as a yellow crystallizate. M.p. 58°-63° C.; yield 13 g (55% of theory).

reactant | sodium hydride | 145 mmol, 4.2 g | [H-].[Na+]
reactant | 1,4-butanedithiol | 290 mmol, 35.5 g | C(CCCS)S | C4H10S2
reactant | 4-chloro-2-hydroxymethyl-3-methylpyridine | 97 mmol, 15.3 g | ClC1=C(C(=NC=C1)CO)C | C7H8ClNO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Hydroxymethyl-4-(4-mercaptobutylthio)-3-methylpyridine | OCC1=NC=CC(=C1C)SCCCCS | C11H17NOS2
